US05753664
3-Propyl-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one
Under argon gas, 7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one (1.0 g) was dissolved in DMF (35 ml) with warming. Then, anhydrous potassium carbonate (1.02 g) and propyl iodide (1.08 ml) were added and the mixture was stirred at 55° C. for 20 hours. The insoluble matter was filtered off and the solvent was distilled off under reduced pressure. The residue was purified by flash column chromatography (silica gel; hexane: ethyl acetate=4:1-1:1) to provide the title compound (521 mg). 1H-NMR (CDCl3) 8: 0.96(3H,t,J=7.4Hz), 1.73-1.92(2H,m), 4.01(2H,t,J=7.4Hz), 6.71(1H,dd,J=2.2&3.4Hz), 7.01(1H,dd,J=2.2&3.4Hz), 7.94(1H,s).

reactant | 7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 1.0 g | N1=CNC(C2=C1NC=C2)=O | C6H5N3O
reactant | potassium carbonate | 1.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | propyl iodide | 1.08 ml | C(CC)I | C3H7I
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 3-Propyl-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 521 mg | C(CC)N1C=NC2=C(C1=O)C=CN2 | C9H11N3O
